US08835689B2
a) [4-ethoxy-4-(3-methoxy-prop-1-ynyl)-1-phenyl-cyclohexyl]-dimethylamine
Methyl propargyl ether (1.47 g, 21.0 mmol) dissolved in abs. THF (15 mL) was added in drops to a 2.5 M solution of butyl lithium in hexane (8.4 mL, 21.0 mmol) at −30° C. in argon. A solution of 4-dimethylamino-4-phenylcyclohexanone (4.34 g, 20.0 mmol) in abs. THF (20 mL) and lithium bromide (0.87 g, 10 mmol) dissolved in abs. THF (2.5 mL) was then added at −30° C. The reaction mixture was heated to −5° C., mixed in drops with a solution of ethyl iodide (4.68 g, 30 mmol) in abs. DMSO (30 mL) and stirred for 2 h at 50° C. For work up of the reaction mixture water (30 mL) was added with ice bath cooling and extracted with cyclohexane (4×50 mL). The organic phase was washed with 20% ammonium chloride solution, dried over Na2SO4 and concentrated to low volume in a vacuum. The remaining residue was purified by flash chromatography with CHCl3/MeOH (20:1).

reactant | Methyl propargyl ether | 21.0 mmol, 1.47 g | C(C#C)OC | C4H6O
reactant | butyl lithium | C(CCC)[Li]
reactant | hexane | 21.0 mmol, 8.4 mL | CCCCCC | C6H14
reactant | 4-dimethylamino-4-phenylcyclohexanone | 20.0 mmol, 4.34 g | CN(C1(CCC(CC1)=O)C1=CC=CC=C1)C | C14H19NO
reactant | lithium bromide | 10 mmol, 0.87 g | [Br-].[Li+]
reactant | ethyl iodide | 30 mmol, 4.68 g | C(C)I | C2H5I
solvent | water | 30 mL | O | H2O
solvent | DMSO | 30 mL | CS(=O)C | C2H6OS
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | [4-ethoxy-4-(3-methoxy-prop-1-ynyl)-1-phenyl-cyclohexyl]-dimethylamine | C(C)OC1(CCC(CC1)(C1=CC=CC=C1)N(C)C)C#CCOC | C20H29NO2
